US05639752
E. 3-(2-Dimethylaminoethyl)-5-(2,6-dinitrophenylamino)-1H-indole
5-Amino-3-(2-dimethylaminoethyl)indole and 1-chloro-2,6-dinitrobenzene were used. Triethylamine was used as base, tetrahydrofuran was used as solvent, and the reaction was stirred at room temperature for 1 hour. Chromatography afforded the title compound (57%) as a dark red solid: mp, 187.0°-188.0° C.; 13C NMR (DMSO-d6) δ139.9, 135.2, 134.0, 132.0, 131.8, 127.2, 123.8, 117.0, 115.4, 112.9, 112.0, 109.3, 59.9, 45.1, 23.0; HRMS calculated for C18H19N5O 369.1439, found 369.1428. Anal. calcd. for C18H19N5O: C, 58.53; H, 5.18; N, 18.96. Found: C, 58.45; H, 4.96; N, 18.63.

reactant | 5-Amino-3-(2-dimethylaminoethyl)indole | NC=1C=C2C(=CNC2=CC1)CCN(C)C | C12H17N3
reactant | 1-chloro-2,6-dinitrobenzene | ClC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2-Dimethylaminoethyl)-5-(2,6-dinitrophenylamino)-1H-indole | 57% | CN(CCC1=CNC2=CC=C(C=C12)NC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-])C | C18H19N5O4
